US09388189B2
(S)-2-(1-((6-Amino-5-(3-fluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-(6-Amino-5-iodopyrimidin-4-ylamino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one and 3-fluoro-5-hydroxyphenylboronic acid (34 mg, 0.22 mmol) were stirred at 80° C. following the experimental procedure described in Example 3. 5 mg (3% yield) of the title compound were obtained as a solid.

reactant | (S)-2-(1-(6-Amino-5-iodopyrimidin-4-ylamino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)I | C18H16IN7O
reactant | 3-fluoro-5-hydroxyphenylboronic acid | 0.22 mmol, 34 mg | FC=1C=C(C=C(C1)O)B(O)O | C6H6BFO3
product | (S)-2-(1-((6-Amino-5-(3-fluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 3% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)C2=CC(=CC(=C2)O)F | C24H20FN7O2
